US07888345B2
Step 1: Preparation of 2-allyl-4-fluoro-phenylamine
A round-bottom flask was fitted with a condenser, stirbar and septa and flushed with nitrogen. 2-bromo-4-fluoro aniline (9.70 g, 40.9 mmol), N,N-dimethylformamide (100 mL), allyltributyltin (15.0 mL, 48.9 mmol) and Pd(PPh3)4 (1.50 g, 1.30 mmol) were added, giving a mixture that was warmed to 80° C. After 17 hours, the reaction was cooled to room temperature, diluted with ethyl acetate (300 mL) and washed with 1:1 H2O:saturated aqueous NaCl solution (2×150 mL). The aqueous washes were combined and extracted with ethyl acetate (50 mL). The organic extracts were then combined, dried over MgSO4, filtered and concentrated in vacuo to give an oil that was purified via flash chromatography on silica gel (0% to 35% ethyl acetate/hexanes linear gradient) to give the desired product.

reactant | 2-bromo-4-fluoro aniline | 40.9 mmol, 9.70 g | BrC1=C(N)C=CC(=C1)F | C6H5BrFN
reactant | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
reactant | allyltributyltin | 48.9 mmol, 15.0 mL | C(C=C)[Sn](CCCC)(CCCC)CCCC
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd(PPh3)4 | 1.30 mmol, 1.50 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-allyl-4-fluoro-phenylamine | C(C=C)C1=C(C=CC(=C1)F)N | C9H10FN
